US04315016
Ethyl (1,2,4-triazol-1-yl)-p-chlorobenzyl ether (Compound 7)
The diethyl acetal of p-chlorobenzaldehyde (4.28 g) was reacted with acetyl chloride (2.34 g) in the presence of a trace of copper bronze. The product was reacted with 1,2,4-triazole (2.8 g) to give the title compound as a viscous oil.

reactant | p-chlorobenzaldehyde | 4.28 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | acetyl chloride | 2.34 g | C(C)(=O)Cl | C2H3ClO
reactant | 1,2,4-triazole | 2.8 g | N1N=CN=C1 | C2H3N3
catalyst | copper bronze | [Cu] | Cu
product | Ethyl (1,2,4-triazol-1-yl)-p-chlorobenzyl ether | N1(N=CN=C1)C(C1=CC=C(C=C1)Cl)OCC | C11H12ClN3O
